US08877932B2
3. Preparation of Lenalidomide Technical Grade Material
Into a 5.0 L 4 necked RB flask, charged 100.0 g of 3-(4-nitro-1-oxo-1,3 dihydro-isoindol-2-yl)-piperidine-2,6-dione, 10.0 g of 10% Pd/C and 3200 ml of DMF under nitrogen atmosphere. Stirred the mass and raise the reaction mass temperature to 60 -65° C. Started the hydrogen gas bubbling into reaction mass at temperature 60-65° C. for 6 hours. The progress of the reaction is monitored by TLC. Cooled the mass to temperature 25to 30° C. Filtered the catalyst Pd/C under plant vacuum in the presence of nitrogen atmosphere and wash with dimethylformamide; wet Pd/C is transferred into a polythene bag for recovery. Distilled off the above organic layer solvent completely under vacuum below 60° C. Charged ethyl acetate 800 ml (lot-I) to the mass and stirred for 60 min. Filtered the solid and wash with 200 mL of ethyl acetate (Lot-II). Dried the above wet material in a oven at temperature 65-75° C. for 120-180 min. Dried Weight of the compound is 78.0 g.

reactant | 3-(4-nitro-1-oxo-1,3 dihydro-isoindol-2-yl)-piperidine-2,6-dione | 100.0 g | [N+](=O)([O-])C1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O | C13H11N3O5
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 10.0 g | [Pd] | Pd
solvent | DMF | 3200 ml | CN(C)C=O | C3H7NO
product | Lenalidomide | C=1C=C2C(=C(C1)N)CN(C2=O)C3CCC(=O)NC3=O | C13H13N3O3
